US04673686
2,4-dimethoxy-5-methyl-sulphonyl-benzoyl chloride
161 g of 2,4-dimethoxy-5-methyl sulphonyl-benzoic acid is reacted. 590 g of thionyl chloride, 5 drops of dimethylformamide and about half of the organic acid are placed in a 2 liter flask filtered with a reflux condenser. The resultant suspension is heated in a water bath at 55° for about 5 minutes. The second half of the organic acid is added and heating is continued for 20 minutes at 60°-65° then for 45 minutes at 70°-75°. The medium becomes fluid and turns yellow. The acid dissolves gradually, while the acid chloride begins to crystallise. When the reaction is over the excess thionyl chloride is distilled to constant weight, finishing up under vacuum.

reactant | 2,4-dimethoxy-5-methyl sulphonyl-benzoic acid | 161 g | COC1C(C(=O)O)=CC(=C(C1=S(=O)=O)OC)C | C10H12O6S
reactant | thionyl chloride | 590 g | S(=O)(Cl)Cl | Cl2OS
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | 2,4-dimethoxy-5-methyl-sulphonyl-benzoyl chloride | COC1C(C(=O)Cl)=CC(=C(C1=S(=O)=O)OC)C | C10H11ClO5S
